US04742057
2-Acetylamino-4-(2-chloroethyl)thiazole (1 g), 3-(4-piperidyl)indole (0.98 g), sodium hydrogen carbonate (620 mg) and potassium iodide (810 mg) were refluxed in a mixture of tetrahydrofuran (14 ml) and N,N-dimethylformamide (10 ml) for 4 hours and 10 minutes. Thereafter, with additions of 2-acetylamino-4-(2-chloroethyl)thiazole (0.5 g) three times, the mixture was further refluxed for 2 hours and 20 minutes. After cooling to ambient temperature, the reaction mixture was concentrated under reduced pressure. The residue was extracted with a mixture of chloroform and methanol (100 ml, 10:1 V/V) and the extract was washed successively with water and a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel and elution was carried out with a mixture of chloroform and methanol (10:1 V/V). The eluate gave 2-acetylamino-4-[2-[4-(3-indolyl)piperidino]ethyl]thiazole (500 mg).

reactant | 2-Acetylamino-4-(2-chloroethyl)thiazole | 1 g | C(C)(=O)NC=1SC=C(N1)CCCl | C7H9ClN2OS
reactant | 3-(4-piperidyl)indole | 0.98 g | N1CCC(CC1)C1=CNC2=CC=CC=C12 | C13H16N2
reactant | sodium hydrogen carbonate | 620 mg | C(O)([O-])=O.[Na+]
reactant | potassium iodide | 810 mg | [I-].[K+]
reactant | 2-acetylamino-4-(2-chloroethyl)thiazole | 0.5 g | C(C)(=O)NC=1SC=C(N1)CCCl | C7H9ClN2OS
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-acetylamino-4-[2-[4-(3-indolyl)piperidino]ethyl]thiazole | 500 mg | C(C)(=O)NC=1SC=C(N1)CCN1CCC(CC1)C1=CNC2=CC=CC=C12 | C20H24N4OS
